US05288701
To a stirred solution of 0.58 g of NaBH4 (18 mmoles) in 50 ml of ethanol cooled to 0° C. are added drop by drop within one hour 5 g (24 mmoles) of 3-methyl-5-(2,2,3-trimethyl-cyclopent-1-yl)-pent-4-en-2-one. The reaction mixture is stirred for 90 minutes at room temperature. The ethanol is removed by rotary evaporation and the reaction mass is extracted with ether and washed with water. After evaporation of the solvent the crude product is vacuum distilled, to yield 3-methyl-5-(2,2,3-trimethyl-cyclopent-1-yl)-pent-4-en-2-ol: 4.4 g (mixture of isomers)

reactant | NaBH4 | 18 mmoles, 0.58 g | [BH4-].[Na+]
reactant | 3-methyl-5-(2,2,3-trimethyl-cyclopent-1-yl)-pent-4-en-2-one | 24 mmoles, 5 g | CC(C(C)=O)C=CC1C(C(CC1)C)(C)C | C14H24O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-methyl-5-(2,2,3-trimethyl-cyclopent-1-yl)-pent-4-en-2-ol | CC(C(C)O)C=CC1C(C(CC1)C)(C)C | C14H26O
